US04235885
(B) 2-(Hydroxymethyl)-4-methylvaleric acid
Diisopropylamine (20.6 g) is dissolved in 80 ml of dry tetrahydrofuran. This solution is cooled to -30° C. n-Butyllithium (77 ml of 2.6 M in hexane) is added dropwise in a nitrogen atmosphere at a rate that maintains the reaction at -30° to -20° C. This solution is stirred at -20° C. for 30 minutes. Isocaproic acid (11.6 g) in 10 ml of tetrahydrofuran is added dropwise at -20° to -10° C., then stirred at -10° C. for 30 minutes. In a separate flask, paraformaldehyde (28 g) is heated to about 200° C. and the vapors are carried in a stream of nitrogen over the surface of the tetrahydrofuran solution of the dilithium salt of isocaproic acid. During this procedure the temperature is kept between -10° and +10° C. After all of the paraformaldehyde has vaporized the reaction mixture is cooled to 0° C. and 10% hydrochloric acid is added dropwise until the reaction mixture becomes acidic. Product is extracted with 2 portions of ether (400 ml each). The ether is dried with magnesium sulfate, filtered and concentrated in vacuo to yield 13.2 g of crude material. Product is vacuum distilled to yield 9.0 g, boiling point 135°-142° C./9 mm of Hg.

reactant | Diisopropylamine | 20.6 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 2.6 M, 77 ml | C(CCC)[Li]
reactant | Isocaproic acid | 11.6 g | C(CCC(C)C)(=O)O | C6H12O2
reactant | paraformaldehyde | 28 g | C=O | CH2O
reactant | dilithium | [Li][Li] | 2Li
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(Hydroxymethyl)-4-methylvaleric acid | 13.2 g | OCC(C(=O)O)CC(C)C | C7H14O3
